US05489614
4-(3,4-Dihydroxy-5-nitrophenyl)-3-(4-methylphenyl)-3-buten-2-one
The procedure described in Example 1 was repeated by using 0.81 g of 3-(4-methylphenyl)-2-propanone and 0.92 g of 3,4-dihydroxy-5-nitrobenzaldehyde. Yield 0.82 g, mp 189°-194° C.

reactant | 3-(4-methylphenyl)-2-propanone | 0.81 g | CC1=CC=C(C=C1)CC(C)=O | C10H12O
reactant | 3,4-dihydroxy-5-nitrobenzaldehyde | 0.92 g | OC=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C7H5NO5
product | 4-(3,4-Dihydroxy-5-nitrophenyl)-3-(4-methylphenyl)-3-buten-2-one | OC=1C=C(C=C(C1O)[N+](=O)[O-])C=C(C(C)=O)C1=CC=C(C=C1)C | C17H15NO5
